US05998436
Synthesis of 7-(3-aminoazetidin-1-yl)-8-chloro-6-fluoro-1-(3,5-difluoro-6-methylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 400 mg of N,N-dimethylformamide were added 100 mg of 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-methylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 60 mg of 3-aminoazetidine dihydrochloride, and 120 mg of N-methylpyrrolidine, and the mixture was stirred at 100° C. for 1 hour. After adding 0.5 ml of ethanol, the mixture was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 102 mg of the title compound as a colorless powder.

reactant | N,N-dimethylformamide | 400 mg | CN(C=O)C | C3H7NO
reactant | 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-methylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)NC)C(=O)O)=O)F)F | C16H8ClF4N3O3
reactant | 3-aminoazetidine dihydrochloride | 60 mg | Cl.Cl.NC1CNC1
reactant | N-methylpyrrolidine | 120 mg | CN1CCCC1 | C5H11N
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 7-(3-aminoazetidin-1-yl)-8-chloro-6-fluoro-1-(3,5-difluoro-6-methylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 102 mg | NC1CN(C1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1=NC(=C(C=C1F)F)NC)C(=O)O)=O)F | C19H15ClF3N5O3
